US06667303B1
Step 3: 6-(1,4-Diazepan-1-yl)-1-(4,4,4-trifluorobutyl)-benzo[cd]indol-2(1H)-one
To a mixture of 1-(4,4,4-trifluorobutyl)-6-bromo-benzo[cd]indol-2(1H)-one (1.225 g, 3.42 mmol), homopiperazine (6 g, 60 mmol) and toluene (100 ml) in a round bottomed flask was added BINAP (42 mg, 2%) and Pd2(dba)3 (30 mg, 1%) and sodium tert-butoxide (333 mg, 3.46 mmol). The reaction mixture was heated at 85° C. for 18 hours and was then poured into 500 ml concentrated HCl solution in water. The organic layer was seperated and the aqueous layer was extracted with more toluene (2×500 ml). The combined organic layers were neutralized with 10 N NaOH (aqueous ) and extracted with a one to one mixture of dichloromethane and toluene (3×500 ml). The combined organic layers were dried and filtered and concentrated to give the crude product (1.4 g).

reactant | 1-(4,4,4-trifluorobutyl)-6-bromo-benzo[cd]indol-2(1H)-one | 3.42 mmol, 1.225 g | FC(CCCN1C(C2=C3C(C(=CC=C13)Br)=CC=C2)=O)(F)F | C15H11BrF3NO
reactant | homopiperazine | 60 mmol, 6 g | N1CCNCCC1 | C5H12N2
reactant | sodium tert-butoxide | 3.46 mmol, 333 mg | CC(C)([O-])C.[Na+]
reactant | HCl | 500 ml | Cl | ClH
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 42 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(1,4-Diazepan-1-yl)-1-(4,4,4-trifluorobutyl)-benzo[cd]indol-2(1H)-one | 1.4 g | N1(CCNCCC1)C=1C=2C3=C(C(N(C3=CC1)CCCC(F)(F)F)=O)C=CC2 | C20H22F3N3O
